US06949571B2
(14a) 3-Nitro-1-phenyl-1,2-dihydropyridin-2-one
5 g of 2-hydroxy-3-nitropyridine, 7.14 g of phenylboronic acid, 2.6 g of copper(II) acetate, 9.9 ml of triethylamine and 5.8 ml of pyridine were added to 100 ml of tetrahydrofuran, followed by stirring overnight. The reaction mixture was poured into aqueous ammonia, and extracted with ethyl acetate. The organic layer was washed with water, dried, and concentrated. The residue was suspended into ether, and collected by filtration, to give 4.71 g of the title compound.

reactant | 2-hydroxy-3-nitropyridine | 5 g | OC1=NC=CC=C1[N+](=O)[O-] | C5H4N2O3
reactant | phenylboronic acid | 7.14 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | triethylamine | 9.9 ml | C(C)N(CC)CC | C6H15N
reactant | ammonia | N | H3N
catalyst | copper(II) acetate | 2.6 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | pyridine | 5.8 ml | N1=CC=CC=C1 | C5H5N
product | 3-Nitro-1-phenyl-1,2-dihydropyridin-2-one | 4.71 g | [N+](=O)([O-])C=1C(N(C=CC1)C1=CC=CC=C1)=O | C11H8N2O3
